US05189040
A mixture of 1.1 g (4 mmol) of 1,3-dimethyl-4-(2-chlorophenylthio)-5-hydroxypyrazole and 5.0 g (34 mmol) of 2,6-dichloropyridine was refluxed with heating for 20 hours. After completing the reaction, the reaction mixture was purified by means of silica gel column chromatography (developing solution: ethyl acetate-hexane (2:1 v/v)) to give 0.40 g of 1,3-dimethyl-4-(2-chlorophenylthio)-5-(6-chloropyridine-2-yloxy)pyrazole.

reactant | 1,3-dimethyl-4-(2-chlorophenylthio)-5-hydroxypyrazole | 4 mmol, 1.1 g | CN1N=C(C(=C1O)SC1=C(C=CC=C1)Cl)C | C11H11ClN2OS
reactant | 2,6-dichloropyridine | 34 mmol, 5.0 g | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
product | 1,3-dimethyl-4-(2-chlorophenylthio)-5-(6-chloropyridine-2-yloxy)pyrazole | 0.40 g | CN1N=C(C(=C1OC1=NC(=CC=C1)Cl)SC1=C(C=CC=C1)Cl)C | C16H13Cl2N3OS
